US04971957
0.77 Gram (2.0 mM) of 1-(4-diethoxyphosphinoylmethylbenzoyl)-1,2,3,4-tetrahydroquinoline and 1.0 g (4.6 mM) of phosphorus pentasulfide were suspended in a mixed solvent consisting of 20 ml of anhydrous benzene and 5 ml of anhydrous pyridine This suspension was heated and refluxed for 7 hours. After the reaction mixture was cooled to room temperature, the mixture was poured into 50 ml of ice-water, and the aqueous phase was acidified with 4N hydrochloric acid and then extracted with chloroform. The chloroform solution was dried over anhydrous sodium sulfate, and concentrated. Thus obtained residue was purified by means of a silica gel column chromatography (eluted with chloroform:ethyl acetate=1:1). The crude crystals were recrystallized from benzene-n-hexane to yield 0.23 g of 1-[(4-diethoxyphosphinoylmethylphenyl)thiocarbonyl]-1,2,3,4-tetrahydroquinoline as yellowish crystals. Melting point 96°-97° C.

reactant | 1-(4-diethoxyphosphinoylmethylbenzoyl)-1,2,3,4-tetrahydroquinoline | 2.0 mM | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)N2CCCC3=CC=CC=C23)C=C1 | C21H26NO4P
reactant | phosphorus pentasulfide | 4.6 mM, 1.0 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-[(4-diethoxyphosphinoylmethylphenyl)thiocarbonyl]-1,2,3,4-tetrahydroquinoline | 0.23 g | C(C)OP(=O)(OCC)CC1=CC=C(C=C1)C(=S)N1CCCC2=CC=CC=C12 | C21H26NO3PS
